US06562978B1
A mixture of methyl 4-(bromomethyl)benzoate (25 g, 109 mmol) and triethyl phosphate (24.3 ml, 142 mmol) was stirred at 150° C. for 24 h. The resulting mixture was purified by distillation (165-172° C., 1 mmHg) to obtain diethyl 4-(methoxycarbonyl)benzylphosphonate (21.5 g, 69%). To a mixture of diethyl 4-(methoxycarbonyl)benzylphosphonate (20.5 g, 71.5 mmol), 15-crown-5 (1.4 ml, 7.1 mmol) and THF (120 ml) was added sodium hydride (60% in oil, 2.9 g, 71.5 mmol) at 0° C. The mixture was stirred at 0° C. for 0.5 h. A solution of tert-butyl 4-oxo-1-piperidinecarboxylate (11.9 g, 59.6 mmol) in THF (45 ml) was added dropwise to the resulting mixture over period of 10 min at 0° C. The mixture was stirred at room temperature for 20 h. The resulting mixture was poured into ice-water (200 ml) and the whole was extracted with ethyl acetate (100 ml×2). The extracts were washed with 5% aqueous sodium bicarbonate(100 ml), saturated sodium chloride solution (100 ml) successively. The organic layer was dried over anhydrous sodium sulfate and concentrated in vacuo. The residue was purified by flash column chromatography (silica gel 200 g, ethyl acetate/hexane=1/10) followed by recrystallization from hexane to give tert-butyl 4-(4-methoxycarbonylbenzylidene)piperidine-1-carboxylate (6.9 g, 35%) as a colorless crystalline powder. A mixture of tert-butyl 4-(4-methoxycarbonylbenzylidene)piperidine-1-carboxylate (6 g, 18 mmol) in methanol (150 ml) was hydrogenated over 10% palladium carbon (50% wet, 1 g) for 5 h at room temperature. The catalyst was removed by filtration and the filtrate was concentrated in vacuo. The residue was purified by flash column chromatography (silica gel 90 g, ethyl acetate/hexane=1/10) to obtain the title compound (6.1 g, 100%) as pale yellow oil.

reactant | diethyl 4-(methoxycarbonyl)benzylphosphonate | 71.5 mmol, 20.5 g | COC(=O)C1=CC=C(CP(OCC)(OCC)=O)C=C1 | C13H19O5P
reactant | 15-crown-5 | 7.1 mmol, 1.4 ml | C1COCCOCCOCCOCCO1 | C10H20O5
reactant | sodium hydride | 71.5 mmol, 2.9 g | [H-].[Na+]
reactant | tert-butyl 4-oxo-1-piperidinecarboxylate | 59.6 mmol, 11.9 g | O=C1CCN(CC1)C(=O)OC(C)(C)C | C10H17NO3
solvent | THF | 45 ml | C1CCOC1 | C4H8O
solvent | THF | 120 ml | C1CCOC1 | C4H8O
product | tert-butyl 4-(4-methoxycarbonylbenzylidene)piperidine-1-carboxylate | 6.9 g, 35% | COC(=O)C1=CC=C(C=C2CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C19H25NO4
